US05036153
(2S,4R)-2-Hydroxymethyl- 4-hydroxy-1(carbobenzyloxy)pyrrolidine
To 200 ml (0.2 mol) of borane. THF complex was added 27.8 g (0.1 mol) of 1-(carbobenzyloxy)-4-hydroxy-L-proline in 50 ml of THF at 0° C. After 16 hours of stirring at room temperature, 100 ml of water was added carefully followed by 12 ml of 6N aqueous HC1 solution and the mixture was extracted with 3 x 100 ml of methylene chloride. The combined organic extracts were dried over MgSO4 and evaporated to yield 22.6 g of the product (oil, 90% yield). NMR(CDC13) 7.40 (m,5H), 5.10 (m,2H), 4.90 (m,1H), 4.65 (m,1H), 4.35 (m,1H), 4.17 (m,1H), 3.60 (m,3H), 2.05 (m,1H), 1.70 (m,1H).

reactant | borane | 0.2 mol, 200 ml | B | BH3
reactant | 1-(carbobenzyloxy)-4-hydroxy-L-proline | 0.1 mol, 27.8 g | C(=O)(OCC1=CC=CC=C1)N1[C@H](C(=O)O)CC(C1)O | C13H15NO5
reactant | water | 100 ml | O | H2O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | (2S,4R)-2-Hydroxymethyl- 4-hydroxy-1(carbobenzyloxy)pyrrolidine | 22.6 g, 90% yield | OC[C@H]1N(C[C@@H](C1)O)C(=O)OCC1=CC=CC=C1 | C13H17NO4
